US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and m-toluoyl chloride, there is obtained ethyl N-(m-toluoyl)-5,7-dihydro-6H-dibenz[c,e]azepin-6-carboximidate m.p. 102°-105° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | m-toluoyl chloride | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
product | ethyl N-(m-toluoyl)-5,7-dihydro-6H-dibenz[c,e]azepin-6-carboximidate | C1(=CC(=CC=C1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2)C | C25H24N2O2
